US06077851
N-Ethyl-N-phenyl-1,2-dihydro-4-hydroxy-5-methoxy-1-methyl-2-oxo-quinoline-3-carboxamide (Method A)
N-Ethylaniline (3.0 g, 25 mmol) was dissolved in 80 ml of toluene and about 30 ml of the solvent was distilled off in order to obtain a dry solution. To this boiling solution was added 1,2-dihydro-4hydroxy-5-methoxy-1-methyl-2-oxo-quinoline-3-carboxylic acid ethyl ester (2.7 g, 10 mmol). The ethanol formed during the reaction was distilled off together with some toluene for about 4 hours. The reaction mixture was cooled to room temperature. The precipitate was collected, washed with cold toluene and hexane and dried to give the title compound (2.8 g), yield 80%.

reactant | N-Ethylaniline | 25 mmol, 3.0 g | C(C)NC1=CC=CC=C1 | C8H11N
reactant | 1,2-dihydro-4hydroxy-5-methoxy-1-methyl-2-oxo-quinoline-3-carboxylic acid ethyl ester | 10 mmol, 2.7 g | C(C)OC(=O)C=1C(N(C2=CC=CC(=C2C1O)OC)C)=O | C14H15NO5
reactant | ethanol | C(C)O | C2H6O
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | N-Ethyl-N-phenyl-1,2-dihydro-4-hydroxy-5-methoxy-1-methyl-2-oxo-quinoline-3-carboxamide | 2.8 g, yield 80% | C(C)N(C(=O)C=1C(N(C2=CC=CC(=C2C1O)OC)C)=O)C1=CC=CC=C1 | C20H20N2O4
